US08729095B2
Under ice cooling, to a toluene suspension (60 ml) of 63% sodium hydride (2.81 g) was added dropwise a toluene solution (30 ml) of tert-butyl 1-hydroxycyclopropanecarboxylate (11.65 g) over 15 minutes, followed by stirring as it stood for 30 minutes, and further at room temperature for 2 hours. After cooling again using an ice bath, a toluene solution (30 ml) of 2,5-dichloro-3-nitropyridine (7.13 g) was added, and the temperature was brought back to room temperature, followed by stirring for 3 hours. After a 10% aqueous citric acid solution was added, the separated organic layer was washed with saturated sodium chloride solution, and the aqueous layer was extracted with ethyl acetate. The collected organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to afford tert-butyl 1-[(5-chloro-3-nitropyridin-2-yl)oxy]cyclopropanecarboxylate (9.61 g).

reactant | sodium hydride | 2.81 g | [H-].[Na+]
reactant | tert-butyl 1-hydroxycyclopropanecarboxylate | 11.65 g | OC1(CC1)C(=O)OC(C)(C)C | C8H14O3
reactant | 2,5-dichloro-3-nitropyridine | 7.13 g | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 1-[(5-chloro-3-nitropyridin-2-yl)oxy]cyclopropanecarboxylate | 9.61 g | ClC=1C=C(C(=NC1)OC1(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C13H15ClN2O5
